US07019026B1
A solution of glyoxylic acid ethyl ester, polymer form (2.02 g, 8.9 mmol) and (3-methoxy-1 methylene-allyloxy)trimethylsilane (1.9 ml, 8.9 mmol, Danishefsky's diene) in benzene (12 ml) was placed under nitrogen. Zinc chloride (0.5 N in tetrahydrofuran, 8.9 ml, 4.45 mmol) was added and the reaction stirred at ambient temperature for 72 hours. The mixture was concentrated in vacuo, diluted with ethyl acetate (100 ml) and washed with 1 N hydrochloric acid (20 ml), saturated sodium bicarbonate (20 ml), and brine (20 ml). The organic layer was dried (Na2SO4), filtered, and the solvent evaporated in vacuo. The residue was purified by silica gel chromatography using a mixture of ethyl acetate/hexane (1:2) as eluent. Pure fractions were collected and the solvent evaporated in vacuo which afforded 1.2 g (75%) of 4-oxo-3,4-dihydro-2H-pyran-2-carboxylic acid ethyl ester as an oil.

reactant | glyoxylic acid ethyl ester | C(C)OC(C=O)=O | C4H6O3
reactant | (3-methoxy-1 methylene-allyloxy)trimethylsilane | 8.9 mmol, 1.9 ml | COC=CC(O[Si](C)(C)C)=C | C8H16O2Si
solvent | benzene | 12 ml | C1=CC=CC=C1 | C6H6
catalyst | Zinc chloride | 4.45 mmol, 0.5 N, 8.9 ml | [Cl-].[Zn+2].[Cl-]
product | 4-oxo-3,4-dihydro-2H-pyran-2-carboxylic acid ethyl ester | 1.2 g, 75% | C(C)OC(=O)C1OC=CC(C1)=O | C8H10O4
